US06908936B2
1-[1-(2-Azido-ethyl)-1-H-benzimidazol-2-ylmethyl)-1H-benzotriazole
Sodium azide (350 mg, 5.38 mmol) was added to a solution of methanesulfonic acid, 2-(2-benzotriazol-1-ylmethyl-benzimidazol-1-yl)-ethyl ester (200 mg, 0.54 mmol) in 5 mL of anhydrous N,N-dimethylformamide. The reaction temperature was raised to 105° C. and stirred for 4 hours. The mixture was cooled, diluted with water and extracted with diethyl ether (3×100 mL). The combined ether extracts were dried over magnesium sulfate, filtered, and evaporated under vacuum. This gave the title compound as a white solid (160 mg, 94% yield).

reactant | Sodium azide | 5.38 mmol, 350 mg | [N-]=[N+]=[N-].[Na+]
reactant | methanesulfonic acid, 2-(2-benzotriazol-1-ylmethyl-benzimidazol-1-yl)-ethyl ester | 0.54 mmol, 200 mg | CS(=O)(=O)OCCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C17H17N5O3S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[1-(2-Azido-ethyl)-1-H-benzimidazol-2-ylmethyl)-1H-benzotriazole | 160 mg, 94% yield | N(=[N+]=[N-])CCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C16H14N8
